US08686048B2
Intermediate 9: 3′-(benzyloxy)-3,5-difluorobiphenyl-4-amine
The title compound (0.143 g) was prepared from 2,6-difluoro-4-bromo aniline (0.3 g, 1.4 mmol) and 3-(benzyloxy)phenylboronic acid (0.426 g, 1.8 mmol) as a colourless liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.49-7.44 (m, 2H), 7.39 (t, J 7.2, 2H), 7.35-7.26 (m, 4H), 7.24 (s, 1H), 7.18 (d, J 7.8, 1H), 6.91 (dd, J 1.9, 8.0, 1H), 5.33 (s, 2H), 5.16 (s, 2H).

reactant | 2,6-difluoro-4-bromo aniline | 1.4 mmol, 0.3 g | FC1=C(N)C(=CC(=C1)Br)F | C6H4BrF2N
reactant | 3-(benzyloxy)phenylboronic acid | 1.8 mmol, 0.426 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
product | 3′-(benzyloxy)-3,5-difluorobiphenyl-4-amine | 0.143 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)F | C19H15F2NO
